US06956052B2
4-Methyl-6-chloronicotinic acid
6-Hydroxy-4-methylnicotinic acid (10 g, 65.3 mmol) and phosphorus oxychloride (33 mL) were combined and refluxed for 3 hours. The reaction solution was poured into 300 mL of ice and then 600 mL of water was added. The solution was boiled for 30 minutes before cooling and extracting the product into ether. The solvent was removed and the residue was recrystallized from 900 mL of hot water. Yellow solid, 9.06 g (81% yield). Mp 170-172° C. 1H NMR (CD3OD): δ 2.61 (s, 3H), 7.41 (s, 1H), 8.80 (s, 1H). LC-MS, M+1=172.

reactant | 6-Hydroxy-4-methylnicotinic acid | 65.3 mmol, 10 g | OC1=NC=C(C(=O)O)C(=C1)C | C7H7NO3
reactant | phosphorus oxychloride | 33 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 600 mL | O | H2O
product | 4-Methyl-6-chloronicotinic acid | 81% yield | CC1=CC(=NC=C1C(=O)O)Cl | C7H6ClNO2
